US05519029
Fuming sulfuric acid (30% SO3 ; 0.31 mL) is added to 4-(5-chloro-2-fluorobenzyl)nicotinic acid of Preparative Example 12. The dark mixture is heated quickly to 130° C. for 10 min in a flask fitted with a cotton filled drying tube. After cooling to room temperature, the reaction mixture is quenched with ice (3 g) and extracted with methylene chloride (4×7 mL). The combined extracts are dried with Na2SO4 and the solvent is removed by roto-evaporation to yield 9-chloro-6-fluorobenzo[g]isoquinoline-5,10-dione as a yellow solid (0.045 g; 82% yield).

reactant | sulfuric acid | 0.31 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-(5-chloro-2-fluorobenzyl)nicotinic acid | ClC=1C=CC(=C(CC2=CC=NC=C2C(=O)O)C1)F | C13H9ClFNO2
product | 9-chloro-6-fluorobenzo[g]isoquinoline-5,10-dione | 82% yield | ClC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)F | C13H5ClFNO2
